US08008303B2
N-[5′-(Cyclopropanecarbonyl-amino)-2′methyl-biphenyl-4-yl]-4-(1,1-dioxo-1lambda*6*-thiomorpholin-4-ylmethyl)-benzamide
A mixture of 4-(1,1-dioxo-1lambda*6*-thiomorpholin-4-ylmethyl) -N-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-benzamide (70 mg), cyclopropanecarboxylic acid (3-bromo-4-methyl-phenyl)-amide (38 mg) in DME (4 ml) and water (1.5 ml) containing cesium carbonate (50 mg) and tetrakis(triphenylphosphine) palladium (0) (10 mg) was heated to reflux for 18 h. The cooled mixture was then partitioned between water and ethyl acetate. The dried extracts were evaporated and the residue purified on silica gel. Elution with 0-30% DCM:EtOH:NH3; 20:8:1 in DCM gave the title compound as a tan solid (6 mg)

reactant | 4-(1,1-dioxo-1lambda*6*-thiomorpholin-4-ylmethyl) -N-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-benzamide | 70 mg | O=S1(CCN(CC1)CC1=CC=C(C(=O)NC2=CC=C(C=C2)B2OC(C(O2)(C)C)(C)C)C=C1)=O | C24H31BN2O5S
reactant | cyclopropanecarboxylic acid (3-bromo-4-methyl-phenyl)-amide | 38 mg | BrC=1C=C(C=CC1C)NC(=O)C1CC1 | C11H12BrNO
reactant | cesium carbonate | 50 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DME | 4 ml | COCCOC | C4H10O2
solvent | water | 1.5 ml | O | H2O
catalyst | tetrakis(triphenylphosphine) palladium (0) | 10 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | N-[5′-(Cyclopropanecarbonyl-amino)-2′methyl-biphenyl-4-yl]-4-(1,1-dioxo-1lambda*6*-thiomorpholin-4-ylmethyl)-benzamide | 6 mg | C1(CC1)C(=O)NC=1C=CC(=C(C1)C1=CC=C(C=C1)NC(C1=CC=C(C=C1)CN1CCS(CC1)(=O)=O)=O)C | C29H31N3O4S
